* source BUGI
V_V4         N00500 0 -9Vdc
X_U1         0 N00079 N00278 N00500 N00075 uA741
V_V1         N00254 0 9Vdc
V_V2         N00278 0 9Vdc
X_U2         0 N00156 N00278 N00500 N00017 uA741
V_V3         N00284 0 9Vdc
X_U3         N00114 N00017 N00278 N00500 N00120 uA741
R_R1         N00075 N00156  1k  
R_R2         N00079 N00075  0.67k  
R_R3         N00059 N00254  1k  
R_R5         N00059 N00079 {Rvar*0.5+.001}
R_R6         N00156 N00278  16k  
R_R7         N00114 N00284  7k  
R_R8         0 N00114  2k  
R_R9         0 N00120  0.36k  
.PARAM  Rvar=234
