* source BYD
I_I2         0 OUT DC 1mAdc  
R_R2         0 OUT  10k  
V_V4         IN 0 DC 0Vdc AC 1Vac 
D_D1         IN OUT D1N4148 
C_C1         0 OUT  5uF  
